US05728699
Preparation of 4-Chloro-4'-(1,1-dioxothiolan-2-yl)benzophenone (Compound No. VI-36)
4-(3-bromopropyl)sulfonylmethyl-4'-chlorobenzophenone (2.5 g) and 60% sodium hydride (0.3 g) were added to N,N-dimethylacetamide (70 ml), and the mixture was stirred for 16 hours at room temperature. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1) to obtain the desired product as a slightly yellow viscous substance 1.0 g, yield: 50%).

reactant | 4-(3-bromopropyl)sulfonylmethyl-4'-chlorobenzophenone | 2.5 g | BrCCCS(=O)(=O)CC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C17H16BrClO3S
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | N,N-dimethylacetamide | 70 ml | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | 4-Chloro-4'-(1,1-dioxothiolan-2-yl)benzophenone | yield: 50% | ClC1=CC=C(C(=O)C2=CC=C(C=C2)C2S(CCC2)(=O)=O)C=C1 | C17H15ClO3S
